US09086390B2
b) Ethyl 3-(2-pyridylamino)propanoate
75.2 g (0.80 mol) of 2-aminopyridine and 88.0 g (0.88 mol) of ethyl acrylate were dissolved in 20 mL of acetic acid. The mixture was heated to 80° C. and stirred for 24 hours at the same temperature. Solvent was removed under vacuum, and the title compound was isolated by vacuum distillation (b.p. 160-172° C., 10-15 mmHg) to obtain 77.0 g of ethyl 3-(2-pyridylamino)propionate as a white solid. Yield: 49.6%.

reactant | 2-aminopyridine | 0.80 mol, 75.2 g | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl acrylate | 0.88 mol, 88.0 g | C(C=C)(=O)OCC | C5H8O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | Ethyl 3-(2-pyridylamino)propanoate | N1=C(C=CC=C1)NCCC(=O)OCC | C10H14N2O2
